US07214802B2
To an ice-cold suspension of 3-hydroxy-2-methylpyridine (2.00 g; 18.3 mmol) and N-phenyltriflimide (6.55 g; 18.3 mmol) in 50 mL of CH2Cl2 was added dropwise 2.70 mL (19.4 mmol) of Et3N. The resulting suspension was stirred for 1 h at 0° C. and for an additional 2 h at room temperature. The mixture was then washed twice with 20 mL of 1M NaOH, once with half-saturated K2CO3, and once with brine. The extract was dried with Na2SO4, filtered, and concentrated to provide trifluoro-methanesulfonic acid 2-methyl-pyridin-3-yl ester as a pale brown oil. ESI MS m/z 242 [C7H6F3NO3S+H]+.

reactant | 3-hydroxy-2-methylpyridine | 18.3 mmol, 2.00 g | OC=1C(=NC=CC1)C | C6H7NO
reactant | N-phenyltriflimide | 18.3 mmol, 6.55 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Et3N | 19.4 mmol, 2.70 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 2-methyl-pyridin-3-yl ester | CC1=NC=CC=C1OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
